US03947417
Under cooling with ice and stirring, to a solution of 7.5 parts of 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid and 2.8 volume parts of triethylamine in 100 volume parts of dry tetrahydrofuran, 2.0 volume parts of ethyl chlorocarbonate is added dropwise. The solution is then added dropwise to 200 volume parts of ice-cooled concentrated aqueous ammonia (28 %). After stirring for 10 minutes, the mixture is diluted with water and extracted with ethyl acetate. The ethyl acetate layer is washed with water and the solvent is distilled off. The residue is treated with ether to obtain 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxamide as crystals. Recrystallization from ethanol gives colorless crystals melting at 122°-124°C (this product includes 1/2 ethanol of crystallization).

reactant | 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)O | C17H11Cl2N3O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2-benzoyl-4-chlorophenyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)N | C17H12Cl2N4O2
